US04634704
To a stirred mixture of 4.3 parts of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]thiourea, 2.1 parts of potassium carbonate and 45 parts of tetrahydrofuran was added dropwise a solution of 0.9 parts of 1-chloro-2-propanone in a small amount of tetrahydrofuran. Upon completion, stirring at room temperature was continued overnight. The reaction mixture was filtered over Hyflo and the filtrate was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 3.8 parts (81%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(4-methyl-2-thiazolyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 184° C. (compound 85).

reactant | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]thiourea | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=S)N | C22H27FN6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-2-propanone | ClCC(C)=O | C3H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(4-methyl-2-thiazolyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 81% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC=C(N2)C | C25H29FN6S
